US09056866B2
5-tert-Butyl-7-morpholin-4-yl-3H-[1,2,3]triazolo[4,5-d]pyrimidine
A mixture of 4-(5-tert-butyl-3-(4-methoxybenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-7-yl)morpholine (10.0 mg, 26.1 μmol) and TFA (250 μL) was refluxed for 5 h under N2 atmosphere. Then, the reaction mixture was concentrated in vacuo and purified by preparative HPLC (column: Gemini 5 um C18 110A 75×30 mm. mobile phase: water (0.05% Et3N): acetonitrile 85:15% to 5:95%. WL: 300 nm Flow: 30 mL/min.) to afford the title compound as white solid (0.9 mg, 13%). MS(m/c): 263.3 (MH+).

reactant | 4-(5-tert-butyl-3-(4-methoxybenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-7-yl)morpholine | 26.1 μmol, 10.0 mg | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=CC=C(C=C2)OC)N2CCOCC2 | C20H26N6O2
solvent | TFA | 250 μL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-tert-Butyl-7-morpholin-4-yl-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 0.9 mg, 13% | C(C)(C)(C)C=1N=C(C2=C(N1)NN=N2)N2CCOCC2 | C12H18N6O
